US05409943
(b) N-[3-(2-Fluoro-6-chlorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)guanidine
A mixture of N-[3-(2-fluoro-6-chlorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea (2 g, 0.0047 mol), yellow mercuric oxide (2.56 g, 0.012 mol) and methanolic ammonia solution (40 ml) was stirred for 40 hours. The solvent was removed in vacuo and the black residue was treated with chloroform and filtered through celite. Evaporation of the solvent and recrystallisation from chloroform/ether gave the desired product. Yield 0.96 g (50%), m.p. 168°-170 ° C.

reactant | N-[3-(2-fluoro-6-chlorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)thiourea | 0.0047 mol, 2 g | FC1=C(COC=2C(=NC=CC2)NC(=S)NC2=CC=C(C=C2)Cl)C(=CC=C1)Cl | C19H14Cl2FN3OS
reactant | ammonia | 40 ml | N | H3N
product | N-[3-(2-Fluoro-6-chlorobenzyloxy)pyrid-2-yl]-N'-(4-chlorophenyl)guanidine | FC1=C(COC=2C(=NC=CC2)NC(=N)NC2=CC=C(C=C2)Cl)C(=CC=C1)Cl | C19H15Cl2FN4O
